US06316637B1
1-Benzyl-4-bromo-5-aminobenzimidazole.
To a solution of 1-benzyl-5-aminobenzimidazole (1.0 g, 5.0 mmol) in 40 ml of AcOH was added solution of Br2 in AcOH until it produces a precipitate. The reaction mixture was concentrated in vacuo to provide a brown solid which was subjected to column chromatography (5% NH3 sat'd MeOH/CHCl3) to provide 0.90 g (2.5 mmol, 60%) of the product.

reactant | 1-benzyl-5-aminobenzimidazole | 5.0 mmol, 1.0 g | C(C1=CC=CC=C1)N1C=NC2=C1C=CC(=C2)N | C14H13N3
reactant | Br2 | BrBr | Br2
reactant | NH3 | N | H3N
reactant | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
solvent | AcOH | 40 ml | CC(=O)O | C2H4O2
product | 1-Benzyl-4-bromo-5-aminobenzimidazole | 2.5 mmol, 0.90 g, 60% | C(C1=CC=CC=C1)N1C=NC2=C1C=CC(=C2Br)N | C14H12BrN3
